US08420690B2
d) N-[2-amino-1-(phenylmethyl)ethyl]-2-(3-furanyl)-5-(1-methyl-1H-pyrazol-5-yl)-3-thiophenecarboxamide
A solution of 1,1-dimethylethyl [2-({[2-(3-furanyl)-5-(1-methyl-1H-pyrazol-5-yl)-3-thienyl]carbonyl}amino)-3-phenylpropyl]carbamate (crude from part e) in TFA-DCM (3 mL, 1:2) was stirred at 25° C. After 30 min, the solution was concentrated and the residue passed through a silica plug (3% MeOH in DCM (1% NH4OH)) affording the free base of the title compound.

reactant | 1,1-dimethylethyl [2-({[2-(3-furanyl)-5-(1-methyl-1H-pyrazol-5-yl)-3-thienyl]carbonyl}amino)-3-phenylpropyl]carbamate | O1C=C(C=C1)C=1SC(=CC1C(=O)NC(CNC(OC(C)(C)C)=O)CC1=CC=CC=C1)C1=CC=NN1C | C27H30N4O4S
solvent | TFA DCM | 3 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | N-[2-amino-1-(phenylmethyl)ethyl]-2-(3-furanyl)-5-(1-methyl-1H-pyrazol-5-yl)-3-thiophenecarboxamide | NCC(CC1=CC=CC=C1)NC(=O)C1=C(SC(=C1)C1=CC=NN1C)C1=COC=C1 | C22H22N4O2S
